US04252947
The said known procedure comprises reacting trans 1-(3-methoxy-2-piperidyl)-2-propanone hydrobromide with hydrobromic acid as in U.S. Pat. No. 2,775,597 to form the trans 3-bromo-1-(3-methoxy-2-piperidyl)-2-propanone hydrobromide, reacting the latter with allyl chloroformate as indicated in J. Org. Chem., Vol. 20 (1955), p. 118-142 to block the nitrogen atom of the piperidine with allyloxycarbonyl by forming 1-allyloxycarbonyl-2-(ω-bromoacetonyl)-3-methoxypiperidine, condensing the latter with 6-chloro-7-bromo-3,4-dihydro-4-quinazolinone as described in French Pat. No. 1,550,956 to obtain 7-bromo-6-chloro-3-[3-(1-allyloxycarbonyl-3-methoxy-2-piperidyl)-acetonyl]-4(3H)-quinazolinone, subjecting the latter to hydrobromic acid as taught in French Pat. No. 1,550,956 to obtain 7-bromo-6-chloro-3-[3-(3-hydroxy-2-piperidyl)-acetonyl]-4(3H)-quinazolinone hydrobromide and treating the latter with a base to form the corresponding free base which if desired may be salified with a non-toxic, pharmaceutically acceptable acid to form the desired acid addition salt.

reactant | trans 1-(3-methoxy-2-piperidyl)-2-propanone hydrobromide | Br.CO[C@H]1[C@@H](NCCC1)CC(C)=O
reactant | hydrobromic acid | Br | BrH
product | trans 3-bromo-1-(3-methoxy-2-piperidyl)-2-propanone hydrobromide | Br.BrCC(C[C@@H]1NCCC[C@H]1OC)=O | InChI=1S/C9H16BrNO2.BrH/c1-13-9-3-2-4-11-8(9)5-7(12)6-10;/h8-9,11H,2-6H2,1H3;1H/t8-,9+;/m0./s1
